US07638517B2
A suspension of 7-chloro-1H-pyrrolo[2,3-c]pyridine (650 mg, 4.2 mmol) and Pd/C (10%, 50 mg) in EtOH (25 mL) was stirred at RT under H2 atmosphere (balloon pressure). The reaction mixture was filtered through a celite pad, and the filter cake was washed with EtOAc (10 mL). The filtrate was concentrated and purified via flash chromatography (DCM/MeOH/NH4OH, 9/1/0.1), affording 1H-Pyrrolo[2,3-c]pyridine as a white solid (380 mg, 75% yield).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine | 4.2 mmol, 650 mg | ClC=1N=CC=C2C1NC=C2 | C7H5ClN2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1H-Pyrrolo[2,3-c]pyridine | 380 mg, 75% yield | N1C=CC=2C1=CN=CC2 | C7H6N2
